US07834035B2
62(B) (S)-Piperidine-3-carboxylic acid (4-fluoro-phenyl)-amide hydrochloride
To a cooled solution of (S)-3-(4-fluoro-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (0.34 g, 1.05 mmol) in dichloromethane (5 mL) was added dropwise 5.2 mL of HCl 4N (dioxane solution) and the solution was stirred at R.T. for 45 min. The solvent was evaporated under reduced pressure to give the title compound as a white solid (0.252 g).

reactant | (S)-3-(4-fluoro-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.05 mmol, 0.34 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)C(NC1=CC=C(C=C1)F)=O | C17H23FN2O3
reactant | HCl | 4N, 5.2 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-Piperidine-3-carboxylic acid (4-fluoro-phenyl)-amide hydrochloride | 0.252 g, Yield: 92% | Cl.FC1=CC=C(C=C1)NC(=O)[C@@H]1CNCCC1 | InChI=1S/C12H15FN2O.ClH/c13-10-3-5-11(6-4-10)15-12(16)9-2-1-7-14-8-9;/h3-6,9,14H,1-2,7-8H2,(H,15,16);1H/t9-;/m0./s1
